US08071766B2
To a solution of 5-bromo-2-methylpent-2-ene (1.33 mL, 10.0 mmol) in CH3CN (25 mL) was added tert-butyl hydroxycarbamate (2.0 g, 15.0 mmol) and DBU (4.5 mL, 30 mmol) at 0° C. and the reaction mixture stirred at r.t. for overnight. Quenched with saturated NH4CT solution and extracted with brine. Combined organic layers washed with brine and dried over anhydrous Na2SO4, filtered and concentrated to provide yellow oil, which was purified by flash chromatography (50% EtOAc-hexane) to yield tert-butyl 4-methylpent-3-enyloxycarbamate (750 mg, 70%) as a viscous oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.40 (s, 9H) 1.54 (s., 3H) 1.61 (s., 3H) 2.21-2.31 (m, 2H) 3.70-3.78 (m, 2H) 5.02-5.10 (m, 1H). MS (ES) [M+H] calculated for C11H22NO3, 216.15. found 216.10.

reactant | 5-bromo-2-methylpent-2-ene | 10.0 mmol, 1.33 mL | BrCCC=C(C)C | C6H11Br
reactant | tert-butyl hydroxycarbamate | 15.0 mmol, 2.0 g | ONC(OC(C)(C)C)=O | C5H11NO3
reactant | DBU | 30 mmol, 4.5 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | tert-butyl 4-methylpent-3-enyloxycarbamate | 750 mg, 70% | CC(=CCCONC(OC(C)(C)C)=O)C | C11H21NO3
